US04376777
In 150 ml of ethanol is dissolved 14.0 g of the above ethyl 2-acetyl-2-chloro-3-(3,4-diethoxyphenyl)propionate, followed by addition of 3.5 g of anhydrous barium hydroxide. The mixture is stirred under ice cooling for 30 minutes, then poured into 300 g ice-40 ml 6N-HCl, and extracted with ether. The ethereal layer is washed with water, dried (over MgSO4) and distilled to remove the ether. The above procedure provides 12.0 g (97.6%) of ethyl 2-chloro-3-(3,4-diethoxyphenyl)propionate as oil.

reactant | ethyl 2-acetyl-2-chloro-3-(3,4-diethoxyphenyl)propionate | 14.0 g | C(C)(=O)C(C(=O)OCC)(CC1=CC(=C(C=C1)OCC)OCC)Cl | C17H23ClO5
reactant | barium hydroxide | 3.5 g | [OH-].[Ba+2].[OH-]
reactant | HCl | Cl | ClH
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | ethyl 2-chloro-3-(3,4-diethoxyphenyl)propionate | 12.0 g, 97.6% | ClC(C(=O)OCC)CC1=CC(=C(C=C1)OCC)OCC | C15H21ClO4
